US07868030B2
i) N-tert-Butyl-4-(5-fluoro-pyridin-3-yl)-3-methyl-benzenesulfonamide
This compound was prepared analogous to Example 52, starting from N-tert-butyl-3-methyl-benzenesulfonamide boronic acid (0.5 g, 1.84 mmol) and 5-bromo-3-fluoropyridine (357 mg, 2.03 mmol, 1.1 equiv.) After purification on silica-gel with n-heptane/ethyl acetate, 335 mg of the title compound were obtained as a light yellow solid MS (ES): m/e 321.1 (M−H)

reactant | N-tert-butyl-3-methyl-benzenesulfonamide boronic acid | 1.84 mmol, 0.5 g | B(O)O.C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C
reactant | 5-bromo-3-fluoropyridine | 2.03 mmol, 357 mg, 1.1 equiv. | BrC=1C=C(C=NC1)F | C5H3BrFN
product | N-tert-Butyl-4-(5-fluoro-pyridin-3-yl)-3-methyl-benzenesulfonamide | 335 mg | C(C)(C)(C)NS(=O)(=O)C1=CC(=C(C=C1)C=1C=NC=C(C1)F)C | C16H19FN2O2S
